US06403607B1
2-(4-Chlorophenylamino)nitrobenzene
2-Fluoronitrobenzene (3.0 g) and 4-chloroaniline (2.5 g) were dissolved in pyridine (30 ml) and stirred at 80° C. for 18 hours. The resultant solution was allowed to cool, and thereafter, water (100 ml) was added thereto and the mixture was extracted with ethyl acetate (50 ml×3). The organic layer was washed with water and saturated brine and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure and the residue was re-crystallized from ethyl acetate-hexane, to thereby yield the target compound (2.5 g) as pale-brown crystals.

reactant | 2-Fluoronitrobenzene | 3.0 g | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
reactant | 4-chloroaniline | 2.5 g | ClC1=CC=C(N)C=C1 | C6H6ClN
reactant | water | 100 ml | O | H2O
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | 2-(4-Chlorophenylamino)nitrobenzene | 2.5 g | ClC1=CC=C(C=C1)NC1=C(C=CC=C1)[N+](=O)[O-] | C12H9ClN2O2
